US04940696
(a) p-(1-adamantylthio) bromobenzene
3.78 g (20 mmol) of p-bromothiophenol, 3.04 g (20 mmol) of 1-adamantanol and 10 ml of trifluoroacetic acid are stirred at ambient temperature for 8 hours and then poured into water. Sodium bicarbonate is added until the mixture is neutral at which time it is extracted with methylene chloride. The organic phase is dried and evaporated. After recrystallization in isooctane, 5.9 g of the expected product are obtained. Yield - 92%. Melting point: 121°-122° C.

reactant | p-bromothiophenol | 20 mmol, 3.78 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | 1-adamantanol | 20 mmol, 3.04 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | p-(1-adamantylthio) bromobenzene | 5.9 g | C12(CC3CC(CC(C1)C3)C2)SC2=CC=C(C=C2)Br | C16H19BrS
